US03969351
D. 5-Nitro-2-[3-(4-morpholinylmethyl)-2-thienyl]-benzoxazole
A mixture of 5 -nitro-2-(3-bromomethyl-2-thienyl)benzoxazole (5.0 g, 0.0147 mole) and morpholine (2.6 g, 0.03 mole) in 200 ml of benzene is refluxed for 24 hours. The precipitated morpholine hydrobromide is removed by filtration and the benzene evaporated under vacuum yielding 4.0 g of solid. Crystallization from ethanol yields 3.4 g of product, melting point 143°-145°C.

reactant | 5 -nitro-2-(3-bromomethyl-2-thienyl)benzoxazole | 0.0147 mole, 5.0 g | [N+](=O)([O-])C=1C=CC2=C(N=C(O2)C=2SC=CC2CBr)C1 | C12H7BrN2O3S
reactant | morpholine | 0.03 mole, 2.6 g | N1CCOCC1 | C4H9NO
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 5-Nitro-2-[3-(4-morpholinylmethyl)-2-thienyl]-benzoxazole | 4.0 g | [N+](=O)([O-])C=1C=CC2=C(N=C(O2)C=2SC=CC2CN2CCOCC2)C1 | C16H15N3O4S
